data/specific_train_final.csv
"CC1=C(C=C(C=C1)CO[O:20])C.[N:10]=O>>CC1=C(C=C(C=C1)CO[O:20][N:10]=O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH2:21]C(C)(C)OC(=O)C.[OH:10]>>[H:20][OH:10].CC(=O)OC(C)(C)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[S:20](C)O.[O:10][O]>>C[S:20](C)(O)[O:10][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC[CH:10]CC.[O:20][O]>>CC[CH:10](CC)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C)CO[O:20].[N+](=O)([O-])[O:10]>>CC(C)(C)CO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:20]1(C=CC2(C([CH:21]1O)O2)C)[O:10]>>C[C:20](=[O:10])C=CC1(C(O1)[CH:21]O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:20][O:21][O].C(OC=O)O[O:10]>>[H:20][O:10]OCOC=O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH3:21].[OH:10]>>[H:20][OH:10].[CH3:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC1(C(O1)(C)[CH:20]=[CH:21]C=O)C=O.[OH:10]>>CCC1(C(O1)(C)[CH:20]([CH:21]C=O)[OH:10])C=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH3:4][CH:3]([CH3:5])[O:2][O:1].[N:6]=[O:7]>>[CH3:4][CH:3]([CH3:5])[O:2][O:1][N:6]=[O:7] 1-1,6; 6-1,6",Room Temperature,Termination,recombine
"CCOCCO[O:20].[N:10]=O>>CCOCCO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:11][C:10]([H:12])([CH:6]([C:5]([CH3:16])([CH2:14][OH:15])[O:4][N+:2](=[O:1])[O-:3])[O:7][O:8][H:9])[OH:13].[He]>>[He].[H:11][C:10]([H:12])([CH:6]([C:5]([CH3:16])([CH2:14][OH:15])[O:4][N+:2](=[O:1])[O-:3])[O:7])[OH:13].[H:9][O:8] 7,8-7; 7,8-8",Light,Initiation,homolyze
"CC(=C)C[C:10]=O.[O:20][O]>>CC(=C)C[C:10](=O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:7][O:6][CH:3]([C:2](=[CH:8][CH2:9][O:10][OH:11])[CH3:1])[O:4][O:5]>>[H:7][O:5][O:4][CH:3]([C:2](=[CH:8][CH2:9][O:10][OH:11])[CH3:1])[O:6] 5-5,7; 6,7-5,7; 6,7-6",Room Temperature,Propagation,abstraction
[CH3:1][C:2]12[CH:5]=[CH:6][CH:7]([CH:9]([CH:10]1[OH:11])[O:4][O:3]2)[O:8].[N:13](=[O:14])[O:12]>>[CH3:1][C:2]12[CH:5]=[CH:6][CH:7]([CH:9]([CH:10]1[OH:11])[O:4][O:3]2)[O:8].[N+:13](=[O:14])[O-:12] 13-12,Room Temperature,Propagation,ha resonance
"[CH3:1][C:2]([O:8][H:9])[CH2:3][O:4][N+:5](=[O:7])[O-:6].[O:16][O:17]>>[H:9][O:16][O:17].[CH3:1][C:2](=[O:8])[CH2:3][O:4][N+:5](=[O:7])[O-:6] 16-16,9; 8,9-16,9; 8,9-8,2; 2-8,2",Room Temperature,Termination,abstraction
"CC(=C)C(COO[O:20][N+:21](=O)[O-])O>>CC(=C)C(COO[O:20])O.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:21](COO)(C=CO)[O:20][O]>>C[C:21](COO)C=CO.[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=O)CC(C)(C[O:20])O.[N+:10](=O)[O-]>>CC(=O)CC(C)(C[O:20][N+:10](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C1=CC=CC=C1)O[O:20].[N+](=O)([O-])[O:10]>>CC(C)(C1=CC=CC=C1)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C(C=O)O)O[O:20].[N+](=O)([O-])[O:10]>>CC(C(C=O)O)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:9][O:8][O:7][O:6][O:5][C:4](=[O:10])[C:2](=[CH2:1])[CH3:3]>>[H:9][O:8][O:7][O:6].[CH3:3][C:2](=[CH2:1])[C:4](=[O:10])[O:5] 5,6-5; 5,6-6",Room Temperature,Initiation,homolyze
"CC(C)C(=O)[CH:10]C(C1C(O1)C=O)O.[O:20][O]>>CC(C)C(=O)[CH:10](C(C1C(O1)C=O)O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=C[C:21](=[C:20](C(C1O[O:10])O)C)O>>CC1=C[C:21]([C:20]2(C(C1O[O:10]2)O)C)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH2:10]C(O)Cl.[O:20][O]>>[CH2:10](C(O)Cl)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C1=CC=CC=C1)[O:21][O:20][O].[N+](=O)[O-]>>CCC(C1=CC=CC=C1)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C1=CC([CH:10]C(=C1)O)O[N+](=O)[O-].[O:20][O]>>C1=CC([CH:10](C(=C1)O)[O:20][O])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C=C(CO[N+](=O)[O-])C(CO)[O:20][O:21]N=O>>C=C(CO[N+](=O)[O-])C(CO)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:16][O:15][O:14][CH2:13][CH:9]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8])[O:10][O:11][H:12].[He]>>[He].[H:12][O:11].[H:16][O:15][O:14][CH2:13][CH:9]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8])[O:10] 11,10-11; 11,10-10",Light,Initiation,homolyze
"C[C:20]1=[C:21](C(=C(C(C1O[N+](=O)[O-])O[O:10])C)C)O>>CC1=C([C:21]([C:20]2(C(C1O[O:10]2)O[N+](=O)[O-])C)O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C(C)(C)O[N+](=O)[O-])[O:20][O:21]N=O>>CC(C(C)(C)O[N+](=O)[O-])[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C[O:20][O:21]N=O)O>>CC(C[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
[O]C(CCOC(C)=O)C.[O:21][N:10]=O>>[O]C(CCOC(C)=O)C.[O-:21][N+:10]=O 10-21,Room Temperature,Propagation,ha resonance
